*cicsimgen unity

.option SEED=1

*Nothing here

.param mc_mm_switch=0
.param mc_pr_switch=0
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__tt.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__tt.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/corners/tt/nonfet.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__npn_05v5__t.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/all.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice"

.lib "../../../tech/ngspice/temperature.spi" Tt

.lib "../../../tech/ngspice/supply.spi" Vt

*TB TELESCOPIC — Unity feedback closed-loop (AC + transient step)
* VIN tied to VOUT (unity feedback per spec testbench diagram)
* VIP receives small AC signal for closed-loop bode + large step for SR/settling
.include ../../../work/xsch/TELESCOPIC.spice
.option TNOM=27 GMIN=1e-12 reltol=1e-3 srcsteps=20 itl1=500 itl6=300 abstol=1e-12

.param vcm       = '0.9'
.param ibias_val = 10u
.param CL_val    = 2p
.param RL_val    = 100k

VSS    VSS    0      dc 0
VDD    VDD    0      dc {vdda}
* AC stim on VIP (small signal), DC = VCM
* For tran step: superimpose pulse from vcm-0.4 to vcm+0.4 (0.8 Vpp swing)
VVIP   VIP    0      dc {vcm}   ac 1   PULSE({vcm-0.4} {vcm+0.4} 20u 1n 1n 30u 60u)
IIBIAS VSS    IBIAS  dc {ibias_val}

* Unity feedback: VIN tied directly to VOUT
* (Using a 0-V vsource as wire for explicit current probe / connectivity)
VFB    VOUT   VIN    dc 0

* Load: 2 pF || 100 kΩ
CLO    VOUT   VSS    {CL_val}
RLO    VOUT   VSS    {RL_val}

.include ../xdut.spi

.nodeset v(ibias)        = 0.65
.nodeset v(xdut.ntail)   = 0.25
.nodeset v(xdut.nd1)     = 0.45
.nodeset v(xdut.nd2)     = 0.45
.nodeset v(xdut.na)      = 1.05
.nodeset v(xdut.nb)      = 1.55
.nodeset v(vout)         = {vcm}
.nodeset v(vin)          = {vcm}

.save all

.control
set num_threads=8
unset askquit
set filetype=ascii

* Phase 1: AC analysis for closed-loop bode (small-signal)
* OP directly with nodesets — cascoded mirror needs careful init.
op
print v(vout) v(vin) v(xdut.na) v(xdut.p1) v(xdut.p2) v(xdut.ntail)
ac dec 100 1 1G

let vo = v(VOUT)
let mag_db = 20*log10(abs(vo))
let ph_deg = 180/PI * cph(vo)

meas ac cl_dc_gain FIND mag_db AT=10
meas ac cl_bw      WHEN mag_db = 'cl_dc_gain - 3' CROSS=1
meas ac cl_peak    MAX mag_db FROM=10 TO=1G
let cl_peaking = cl_peak - cl_dc_gain

echo ""
echo "============ UNITY-FEEDBACK CLOSED-LOOP AC ============"
print cl_dc_gain
print cl_bw
print cl_peak
print cl_peaking
echo "Peaking < 1.25 dB => PM > 60 deg"
echo "Peaking < 3 dB => PM > 45 deg"
echo ""

let mag_1k   = mag_db[400]
let mag_10k  = mag_db[500]
let mag_100k = mag_db[600]
let mag_1M   = mag_db[700]
let mag_10M  = mag_db[800]
let ph_1k    = ph_deg[400]
let ph_10k   = ph_deg[500]
let ph_100k  = ph_deg[600]
let ph_1M    = ph_deg[700]
let ph_10M   = ph_deg[800]
print mag_1k mag_10k mag_100k mag_1M mag_10M
print ph_1k ph_10k ph_100k ph_1M ph_10M

* Phase 2: Transient step response for SR + settling
* Need to disable the AC sweep from corrupting tran — repeat with fresh tran
destroy all
tran 50n 80u uic

* Slew rate: |dV/dt| during the step
let vo_t = v(VOUT)
let svo  = abs(deriv(vo_t))

* Step from vcm-0.4 to vcm+0.4 starts at t=20u
meas tran sr_rise MAX svo FROM=20u TO=22u
* Step back at t=50u (20u + 30u pulse width)
meas tran sr_fall MAX svo FROM=50u TO=52u

* Settling: settled value vs target (vcm+0.4 = 1.3 V)
meas tran vout_settled AVG vo_t FROM=45u TO=49u
meas tran vout_low     AVG vo_t FROM=15u TO=19u

let sr_rise_us = sr_rise / 1e6
let sr_fall_us = sr_fall / 1e6

echo ""
echo "============ UNITY-FEEDBACK STEP RESPONSE ============"
print vout_low vout_settled sr_rise sr_fall sr_rise_us sr_fall_us

* Phase 3: SLOW triangle sweep 0 → VDD → 0 to find true swing limits
destroy all
alter vvip pulse=( 0 {vdda} 1u 500u 500u 1n 1.001m )
tran 1u 1.001m uic

let vi3 = v(VIP)
let vo3 = v(VOUT)
* Tracking error vs input over full sweep
let err = vo3 - vi3
* Find where amp loses tracking (|err| > 50 mV indicates rail/sat exit)
meas tran vout_max  MAX vo3 FROM=10u TO=500u
meas tran vout_min  MIN vo3 FROM=510u TO=1000u
meas tran swing_pp  PARAM='vout_max - vout_min'

echo ""
echo "============ UNITY-FEEDBACK MAX SWING (1 ms triangle 0→VDD→0) ============"
print vout_max vout_min swing_pp

write unity_SchGtKttTtVt.raw
quit
.endc
.end

